US05236957
2-(4-Benzylaminobenzyl)amino-N,N-dimethylacetamide;
(S)-2-(4-Benzyloxybenzyl)amino-N,N-dimethylpropionamide, methanesulfonate.

reactant | (S)-2-(4-Benzyloxybenzyl)amino-N,N-dimethylpropionamide | C(C1=CC=CC=C1)OC1=CC=C(CN[C@H](C(=O)N(C)C)C)C=C1 | C19H24N2O2
reactant | methanesulfonate | CS(=O)(=O)[O-]
product | 2-(4-Benzylaminobenzyl)amino-N,N-dimethylacetamide | C(C1=CC=CC=C1)NC1=CC=C(CNCC(=O)N(C)C)C=C1 | C18H23N3O
